*4075 MCE Nodes: A,B,C,Y
*MCE mixed-mode 3-input OR gate pkg:DIP14 (A:3,4,5,6)(B:1,2,8,9)(C:11,12,13,10)
.SUBCKT X4075 1 2 3 4
BNLVs1 5 0 V=V(1) | v(2) | v(3)
R1 5 4 1
C1 4 0 .004uF IC=0V
.ENDS X4075
